US09120812B2
130 mg (316 μmol) of 4-(4-aminophenyl)-6-ethyl-8,8-dimethyl-2-((S)-3-methylmorpholin-4-yl)-7,8-dihydro-6H-9-oxa-1,3,6-triazabenzocyclohepten-5-one suspended in 3 ml of dioxane are heated at 50° C. for 30 minutes in the presence of 233 μl of a 1.9 M solution of phosgene in toluene (442.3 mmol) and 75 μl (442.3 mmol) of DIEA. 391 mg (1.58 mmol) of (4-aminophenyl)-(4-dimethylaminopiperidin-1-yl)methanone are then added. The medium is stirred for 16 hours at room temperature. The mixture is evaporated under reduced pressure and the residue is taken up in water and extracted with DCM. The organic phase is washed twice with water, dried over MgSO4 and then filtered. The filtrate is evaporated under reduced pressure and the residue is then chromatographed on silica gel, eluting with a DCM/MeOH mixture from (100/0 v/v) up to (93/7 v/v). The product obtained is dissolved in a minimum amount of DCM and then reprecipitated from Et2O to give 61 mg of 1-[4-(4-dimethylaminopiperidine-1-carbonyl)phenyl]-3-{4-[6-ethyl-8,8-dimethyl-2-((S)-3-methylmorpholin-4-yl)-5-oxo-5,6,7,8-tetrahydro-9-oxa-1,3,6-triazabenzocyclohepten-4-yl]phenyl}urea.

reactant | 4-(4-aminophenyl)-6-ethyl-8,8-dimethyl-2-((S)-3-methylmorpholin-4-yl)-7,8-dihydro-6H-9-oxa-1,3,6-triazabenzocyclohepten-5-one | 316 μmol, 130 mg | NC1=CC=C(C=C1)C1=NC(=NC=2OC(CN(C(C21)=O)CC)(C)C)N2[C@H](COCC2)C | C22H29N5O3
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 442.3 mmol | C1(=CC=CC=C1)C | C7H8
reactant | DIEA | 442.3 mmol, 75 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | (4-aminophenyl)-(4-dimethylaminopiperidin-1-yl)methanone | 1.58 mmol, 391 mg | NC1=CC=C(C=C1)C(=O)N1CCC(CC1)N(C)C | C14H21N3O
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 1-[4-(4-dimethylaminopiperidine-1-carbonyl)phenyl]-3-{4-[6-ethyl-8,8-dimethyl-2-((S)-3-methylmorpholin-4-yl)-5-oxo-5,6,7,8-tetrahydro-9-oxa-1,3,6-triazabenzocyclohepten-4-yl]phenyl}urea | 61 mg | CN(C1CCN(CC1)C(=O)C1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)C1=NC(=NC=2OC(CN(C(C21)=O)CC)(C)C)N2[C@H](COCC2)C)C | C37H48N8O5
